US09085583B2
Methyl 2-vinyl-1H-indole-3-carboxylate (80 mg, 0.4 mmol) and 10% palladium on charcoal (100 mg) in methanol (30 mL) were stirred under hydrogen 0.2 MPa at room temperature for 15 hours. The mixture was filterated the solid and concentrated in vacuum to obtain methyl 2-ethyl-1H-indole-3-carboxylate as a white solid (79 mg, 99%) LRMS (M+H+) m/z: calcd 203.1 found 203.

reactant | Methyl 2-vinyl-1H-indole-3-carboxylate | 0.4 mmol, 80 mg | C(=C)C=1NC2=CC=CC=C2C1C(=O)OC | C12H11NO2
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
solvent | methanol | 30 mL | CO | CH4O
product | methyl 2-ethyl-1H-indole-3-carboxylate | 79 mg, 99% | C(C)C=1NC2=CC=CC=C2C1C(=O)OC | C12H13NO2
